* C:\Users\circuit\spice\saradc\module4.asc
M1 N020 N024 N026 N022 CMOSN l={L6} w={W6} m={M6}
M2 N021 N025 N027 N023 CMOSN l={L7} w={W7} m={M7}
M3 N007 N014 N015 N010 CMOSN l={L8} w={W8} m={M8}
M4 N016 N012 N011 N009 CMOSP l={L9} w={W9} m={M9}
M5 N006 N003 N001 N004 CMOSP l={L10} w={W10} m={M10}
XX1 VDD N001 para_register
XX2 VDD N005 para_register
XX3 N002 N003 para_register
XX4 N004 N005 para_register
XX5 N006 N008 para_register
XX6 N005 N009 para_register
XX7 N008 N007 para_register
XX8 N008 N011 para_register
XX9 N002 N014 para_register
XX10 N010 VSS para_register
XX11 N015 VSS para_register
XX12 N012 N013 para_register
XX13 N018 N016 para_register
XX14 N020 N019 para_register
XX15 N021 N019 para_register
XX16 VSS N026 para_register
XX17 VSS N022 para_register
XX18 VSS N023 para_register
XX19 VSS N027 para_register
XX20 N002 N017 para_register
XX21 N019 N018 para_register
XX22 N025 N013 para_register
XX23 N018 VOUTP para_register
XX24 N013 VOUTN para_register
XX25 N017 N024 para_register
XX26 FP N017 para_register

* block symbol definitions
.subckt para_register in out
R1 out in 0.0001
.ends para_register

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
